US07371747B2
Synthesis of trans-N-cyanomethyl-2-(4-hydroxyphenylsulfanylmethyl)-cyclohexanecarboxamide
trans-2-Bromomethyl-cyclohexanecarboxylic acid cyanomethylamide (261 mg) and cesium carbonate (327 mg) were weighed into a 15 mL vial fitted with a stir bar and a vent cap. Acetone (3 mL) and 4-mercaptophenol (139 mg) were added. The reaction mixture was stirred at 50° C. overnight and then diluted with hot acetone (7 mL) and filtered through Celite™. The Celite™ was washed with hot acetone. The filtrate and wash were combined and the solvent was removed on a rotary evaporator. Chromatography of the crude product on a silica gel (using 3:1 dichloromethane:acetone as the eluent) provided the title compound as a beige solid.

reactant | trans-2-Bromomethyl-cyclohexanecarboxylic acid cyanomethylamide | 261 mg | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CBr | C10H15BrN2O
reactant | cesium carbonate | 327 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-mercaptophenol | 139 mg | SC1=CC=C(C=C1)O | C6H6OS
solvent | acetone | 7 mL | CC(=O)C | C3H6O
solvent | Acetone | 3 mL | CC(=O)C | C3H6O
product | trans-N-cyanomethyl-2-(4-hydroxyphenylsulfanylmethyl)-cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CSC1=CC=C(C=C1)O | C16H20N2O2S
